2128-03-03 09:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   no further bleeding overnight, remains hemodynamically stable. INR
   still elevated at 4.6.
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Cefazolin - [**2128-3-3**] 08:17 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2128-3-2**] 08:00 PM
   Pantoprazole (Protonix) - [**2128-3-3**] 08:17 AM
   Morphine Sulfate - [**2128-3-3**] 08:17 AM
   Other medications:
   cefazolin, calcium gluconate, pantoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-3-3**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 75 (74 - 78) bpm
   BP: 132/49(65) {97/26(43) - 153/84(88)} mmHg
   RR: 24 (13 - 26) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
           Total In:
                                                                  2,878 mL
                                                                    626 mL
   PO:
           TF:
   IVF:
                                                                    390 mL
                                                                    158 mL
   Blood products:
                                                                  2,489 mL
                                                                    468 mL
   Total out:
                                                                  5,075 mL
                                                                    200 mL
   Urine:
                                                                  5,075 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,197 mL
                                                                    426 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : bilateral bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   260 K/uL
   117 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.6 mEq/L
   43 mg/dL
   111 mEq/L
   150 mEq/L
   25.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2128-3-2**]  03:33 AM
                             [**2128-3-2**]  05:36 AM
                             [**2128-3-2**]  09:21 AM
                             [**2128-3-2**]  09:25 AM
                             [**2128-3-2**]  12:17 PM
                             [**2128-3-2**]  05:36 PM
                             [**2128-3-2**]  11:28 PM
                             [**2128-3-3**]  06:05 AM
   WBC
   7.8
   9.5
   Hct
   15.3
   15.1
   19.2
   21.9
   24.3
   24.4
   25.0
   Plt
   268
   260
   Cr
   1.4
   1.4
   1.3
   TropT
   0.01
   Glucose
   132
   136
   117
   Other labs: PT / PTT / INR:43.3/34.2/4.6, CK / CKMB /
   Troponin-T:20//0.01, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:0.0, Eos:2.0 %, Lactic Acid:1.3 mmol/L, Ca++:8.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   etilogy unclea will get EGD today with [**Name (NI) **] and if this is negative will
   proceed with capsule study. monitor hct q8. Monitor stool guiac.
   continue ppi
   Aortic valve: resume heparin iv with no bolus
   diastolic heart fialrue: will keep tbb even to slighlty negative today
   with lasix prn
   ICU Care
   Nutrition: NPO for endoscopy
   Glycemic Control:
   Lines:
   PICC Line - [**2128-3-1**] 07:06 PM
   18 Gauge - [**2128-3-1**] 07:08 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was present with the ICU team for the
   key portions of services provided. I agree with Dr. [**First Name (STitle) 10399**]
s note,
   including assessment and plan.
   76 yo male with [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) 4721**]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 11636**] on chronic anticoagulation, recent high
   grtade MSSA bacteremia, heart block s/p PM placement admitted with
   melana/GI bleed and acute blood loss anemia, in the setting of
   supratherapeutic INR
s . Has had extensive GI workup in the past
   including endoscopies
   A tagged RBC scan did not show the source of the bleed.
   Last blood transfusion yesterday afternoon, no obvious melana since.
   Hct
s unchanged over the past 12 hours
   Plans-
   1.       Acute GI bleed/acute blood loss anemia: source remains
   unclear, though unchanged hct
s and absence of further melana suggest
   it may have ceased. Initially supratheapeutic INR likely contributed.
   . Plan continued serial hct
s, EGD by GI once INR<2 (receiving [**Last Name (NamePattern4) 5824**]),
   capsule if EGD unrevealing
   2.       MSSA bacteremia: on cefazolin
   3.       s/p AVR- INR goal 2.5-3.5 once done with procedures
   Pt is critically ill. Total time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2128-3-3**] 16:04 ------

2128-03-04 12:06:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No endoscopy to be performed today as INR remains elevated. Hct
   continues to slowly trend down.
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Cefazolin - [**2128-3-4**] 07:34 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2128-3-4**] 07:34 AM
   Other medications:
   cefazolin, calcium gluconate, pantoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-3-4**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 76 (75 - 77) bpm
   BP: 133/73(82) {95/33(49) - 150/79(85)} mmHg
   RR: 19 (17 - 24) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
           Total In:
                                                                    992 mL
                                                                    645 mL
   PO:
                                                                    120 mL
           TF:
   IVF:
                                                                    290 mL
                                                                    270 mL
   Blood products:
                                                                    582 mL
                                                                    375 mL
   Total out:
                                                                  1,050 mL
                                                                    500 mL
   Urine:
                                                                  1,050 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -58 mL
                                                                    145 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   Deffered as pt on bed pan.
   Labs / Radiology
   7.5 g/dL
   213 K/uL
   90 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.0 mEq/L
   28 mg/dL
   109 mEq/L
   147 mEq/L
   24.1 %
   7.3 K/uL
        [image002.jpg]
                             [**2128-3-2**]  05:36 AM
                             [**2128-3-2**]  09:21 AM
                             [**2128-3-2**]  09:25 AM
                             [**2128-3-2**]  12:17 PM
                             [**2128-3-2**]  05:36 PM
                             [**2128-3-2**]  11:28 PM
                             [**2128-3-3**]  06:05 AM
                             [**2128-3-3**]  01:33 PM
                             [**2128-3-4**]  12:33 AM
                             [**2128-3-4**]  04:49 AM
   WBC
   9.5
   7.8
   7.3
   Hct
   15.1
   19.2
   21.9
   24.3
   24.4
   25.0
   23.3
   22.7
   24.1
   Plt
   [**Telephone/Fax (3) 11662**]
   Cr
   1.4
   1.3
   1.1
   Glucose
   136
   117
   90
   Other labs: PT / PTT / INR:52.9/40.0/5.9, CK / CKMB /
   Troponin-T:20//0.01, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:0.0, Eos:2.0 %, Fibrinogen:399 mg/dL, Lactic Acid:1.3 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   hct continues to trend down will continue to monitor and transfuse to
   keep hct >24. follow up with GI for endoscpy in next 48hours.
INR elevated: likley still elevated from malnutrition.. will alow him
   to eat to day.
diastolic heart failure: stable respiratory status, has not needed any
   extra diuresis. Once eating he will likely need some diuresis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2128-3-1**] 07:06 PM
   18 Gauge - [**2128-3-3**] 11:35 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr.[**Name (NI) 11665**]
   note above, including assessment and plan. I would add:
   76 yo male with [**First Name8 (NamePattern2) **] [**Initials (NamePattern4) 6198**] [**Last Name (NamePattern4) 11636**] on anticoagulation, MSSA bacteremia
   admitted with GI bleed/acute blood loss anemia- no obvious bleed over
   past day.
   He did receive a unit of blood for gradual downward drift in Hct- INR
   rose to 5.9, so EGD cancelled
   Recent INR's have remained elevated despite being off coumadin- suspect
   malnutrition contributing as pt has largely been NPO. Will liberate
   diet for today, plans for EGD once INR appropriately down.
   Continue Cefazolin for MSSA bacteremia.
   Appears appropriate for floor transfer
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2128-3-4**] 13:03 ------

2128-03-04 16:07:00 Physician Resident Progress Note
Chief Complaint:
   none
   24 Hour Events:
   -- Hct creeping down, getting 2 more units pRBC
   -- didn't get scoped, on clears until MN, will get scoped between 8:30
   and 10 tomorrow, needs INR <2.5 (likely 4 until FFP given INR 5
   overnight)
   Allergies:
   Nafcillin
   Renal Toxicity;
   Last dose of Antibiotics:
   Cefazolin - [**2128-3-4**] 03:27 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2128-3-4**] 07:34 AM
   Morphine Sulfate - [**2128-3-4**] 02:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-3-4**] 04:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 75 (75 - 77) bpm
   BP: 151/62(76) {95/33(49) - 163/84(98)} mmHg
   RR: 24 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
           Total In:
                                                                    992 mL
                                                                  1,195 mL
   PO:
                                                                    120 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    290 mL
                                                                    340 mL
   Blood products:
                                                                    582 mL
                                                                    375 mL
   Total out:
                                                                  1,050 mL
                                                                    750 mL
   Urine:
                                                                  1,050 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -58 mL
                                                                    445 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Gen: elderly man in NAD
   CV: RRR, no m/r/g
   Lungs: CTAB
   Abd: soft, NT, ND
   Ext: trace edema
   Labs / Radiology
   226 K/uL
   9.2 g/dL
   90 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.0 mEq/L
   28 mg/dL
   109 mEq/L
   147 mEq/L
   28.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2128-3-2**]  09:21 AM
                             [**2128-3-2**]  09:25 AM
                             [**2128-3-2**]  12:17 PM
                             [**2128-3-2**]  05:36 PM
                             [**2128-3-2**]  11:28 PM
                             [**2128-3-3**]  06:05 AM
                             [**2128-3-3**]  01:33 PM
                             [**2128-3-4**]  12:33 AM
                             [**2128-3-4**]  04:49 AM
                             [**2128-3-4**]  02:12 PM
   WBC
   9.5
   7.8
   7.3
   8.7
   Hct
   19.2
   21.9
   24.3
   24.4
   25.0
   23.3
   22.7
   24.1
   28.1
   Plt
   [**Telephone/Fax (3) 11669**]26
   Cr
   1.4
   1.3
   1.1
   Glucose
   136
   117
   90
   Other labs: PT / PTT / INR:52.9/40.0/5.9, CK / CKMB /
   Troponin-T:20//0.01, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:6.0
   %, Mono:0.0, Eos:2.0 %, Fibrinogen:399 mg/dL, Lactic Acid:1.3 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   Mr [**Known lastname **] is a 76 year old man with multiple medical problems,
   including prosthetic aortic valve and recent MSSA bacteremia,
   presenting with supratherapeutic INR and GI bleeding.
   .
   #  GI BLEED: Patient with prior episodes of erosive gastritis and GI
   Bleed, also with known diverticulosis, AAA and history of paroxysmal
   atrial fibrillation. Hct now stable after total of 7 units of pRBCs.
   - hold off on endoscopy by GI today because of high INR and clinical
   stability
   - Maintain active type and screen, large bore PIV's
   -- Transfuse PRN to keep Hct > 25 given severity of CAD
   -- Appreciate GI consult team following
   -- q8h Hct
   .
   #  VALVULAR HEART DISEASE / PROSTHETIC VALVE: Patient with [**First Name8 (NamePattern2) **] [**Male First Name (un) 6198**]
   mechanical valve in aortic position, also with Moderate MR / TR. INR
   4.1 today; goal 2.5 to 3.5
   -- monitor INR closely
   -- Avoid Vitamin K to minimize risk of valve thrombosis
   .
   #  ENDOCARDITIS, PROSTHETIC VALVE:  Patient will require ongoing
   treatment with IV Cefazolin.
   -- Continue cefazolin q8H; per last ID note, last day [**3-12**]
   -- Touch base with EP regarding his external pacer
   .
   #  SUPRATHERAPEUTIC INR: Unclear etiology of significantly elevated
   INR, although patient has been on IV antibiotics for a prolonged course
   and has likely erradicated intestinal Vitamin K metabolizers. No other
   clear drug interactions noted.  INR still elevated at 5.9.
   -- continue to hold warfarin
   -- trend INR
   .
   #  DIASTOLIC HEART FAILURE: Received some furosemide boluses with blood
   transfusion. Currently appears euvolemic. Has been autodiuresing well.
   -- Hold diuretics, antihypertensives during acute bleeding.
   -- I/O, goal even to negative 500 cc
   .
   #  NECK PAIN: Chronic pain secondary to shingles. patient takes
   oxycodone at home however for now would favor using IV morphine as
   needed for breakthrough pain.
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: PPI, bowel regimen
   # ACCESS: PIV
   # CODE:  DNR/DNI
   # CONTACT:  Wife, [**Name (NI) 393**] ([**Telephone/Fax (1) 11623**]
   # DISPOSITION: to floor
   Lines:
   PICC Line - [**2128-3-1**] 07:06 PM
   18 Gauge - [**2128-3-1**] 07:08 PM
   Code status: DNR / DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2128-3-1**] 07:06 PM
   18 Gauge - [**2128-3-3**] 11:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: